US06727264B1
According to the procedure used for the synthesis of N-(3-{1-[(3S)-3-(acetylamino)-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide, N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide (11.0 mg, 0.0280 mmol) and propionyl chloride (3.80 mg, 0.0420 mmol) provided 2-methyl-N-(3-{1-[(3S)-3-phenyl-3-(propionylamino)propyl]-4-piperidinyl}phenyl)propanamide (12 mg, 97% yield). 1H NMR (400 MHz, CDCl3) δ 8.05 (s, 1H), 7.59 (s, 1H), 7.40-7.20 (m, 7H), 6.96 (s, 1H), 5.19-5.12 (m, 1H), 3.18 (d, 1H, J=12.0 Hz), 2.99 (d, 1H, J=10.4 Hz), 2.93-2.86 (m, 1H), 2.61-2.40 (m, 3H), 2.38-2.23 (m, 3H), 2.19-1.75 (m, 8H), 1.25 (d, 6H, J=6.9 Hz), 1.22-1.08 (m, 3H); ESMS m/e: 436.4 (M+H)+.

reactant | N-(3-{1-[(3S)-3-(acetylamino)-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | C(C)(=O)N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C26H35N3O2
reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | 0.0280 mmol, 11.0 mg | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
reactant | propionyl chloride | 0.0420 mmol, 3.80 mg | C(CC)(=O)Cl | C3H5ClO
product | 2-methyl-N-(3-{1-[(3S)-3-phenyl-3-(propionylamino)propyl]-4-piperidinyl}phenyl)propanamide | 12 mg, 97% yield | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC[C@H](NC(CC)=O)C1=CC=CC=C1)C | C27H37N3O2
